US08017804B2
Synthesis of N-palmityl-oleylamine [#2]
20 ml 1M LiAlH4 in ether are provided under argon inert gas in a 250 ml three-neck flask having a dropping funnel and a reflux condenser and subsequently a solution of 7.59 g (15 mmol) palmityloleoylamide in 80 ml THF added dropwise within 20 minutes. The mixture is refluxed for 2.5 hours, then another 5 ml 1 M LiAlH4 in ether is added and refluxed for another 2.5 hours. Excess hydride is decomposed using 6 M NaOH under ice bath cooling and the precipitate is filtered off. The precipitate is extracted twice with 40 ml of hot MtBE each, the combined organic phases dried over Na2SO4 and the solvent removed using a rotary evaporator. The residue is crystallised from 100 ml MtBE at −20° C. 6.23 g (12.7 mmol) corresponding to a yield of 85% of a colourless crystalline solid are obtained.

reactant | palmityloleoylamide | 15 mmol, 7.59 g | C(CCCCCCCCCCCCCCC)CCCCCCCC\C=C/CCCCCCCC(=O)[NH-]
reactant | LiAlH4 | 1 M, 5 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | hydride | [H-]
reactant | NaOH | 6 M | [OH-].[Na+]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | N-palmityl-oleylamine | yield of 85% | C(CCCCCCCCCCCCCCC)NCCCCCCCC\C=C/CCCCCCCC | C34H69N
